US08030311B2
A solution of [4-(3-amino-pyridin-2-ylamino)-phenyl]oxo-acetic acid ethyl ester (195 mg, 0.547 mmol) in triethyl orthoformate (5 mL) is heated at 144° C. for 5 h. The reaction mixture is left in the fridge over night and then refluxed for additional 5 h. The solvent is removed and the product is purified by reverse phase MPLC with ACN/water to afford (4-imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid ethyl ester. ES-MS: 296.10 [M+H]+; tR=1.4 min (System 2).

reactant | [4-(3-amino-pyridin-2-ylamino)-phenyl]oxo-acetic acid ethyl ester | 0.547 mmol, 195 mg | C(C)OC(C(=O)C1=CC=C(C=C1)NC1=NC=CC=C1N)=O | C15H15N3O3
reactant | triethyl orthoformate | 5 mL | C(OCC)(OCC)OCC | C7H16O3
product | (4-imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid ethyl ester | C(C)OC(C(=O)C1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)=O | C16H13N3O3
